US07618989B2
Step 2: 2-(4,4-diethyl-2-oxo-1,3-oxazolidin-3-yl)-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile
2-{[1-Ethyl-1-(hydroxymethyl)propyl]amino}-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile (0.29 g, 0.89 mmol), prepared in the previous step, was dissolved in methylene chloride (10 mL) and diisopropylethyl amine (0.37 mL, 2.1 mmol) was added and the mixture was cooled to 0° C. Triphosgene (108 mg, 1.07 mmol) was added and the mixture was stirred for 2 h. The mixture was then diluted with methylene chloride and washed with 2N HCl, saturated NaHCO3, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (10%-15% ethyl acetate in hexane) afforded the title compound (230 mg, 73%) as a white solid. HRMS: calcd for C19H19N3O2S+H+, 354.12707. Found (ESI-FT/MS, [M+H]1+), 354.127; Analytical HPLC: purity 98.1% at 210-370 nm, 10.7 min.; 98.8% at 316 nm, 10.7 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 2-{[1-Ethyl-1-(hydroxymethyl)propyl]amino}-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile | 0.89 mmol, 0.29 g | C(C)C(CC)(CO)NC=1SC2=C(N1)C1=CC=C(C=C1CC2)C#N | C18H21N3OS
reactant | diisopropylethyl amine | 2.1 mmol, 0.37 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Triphosgene | 1.07 mmol, 108 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4,4-diethyl-2-oxo-1,3-oxazolidin-3-yl)-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile | 230 mg, 73% | C(C)C1(N(C(OC1)=O)C=1SC2=C(N1)C1=CC=C(C=C1CC2)C#N)CC | C19H19N3O2S
